US07407957B2
(d) 2-(4-Oxo-3,4-dihydro-phthalazin-1-ylmethyl)-isonicotinonitrile
To crude 2-(3-oxo-3H-isobenzofuran-1-ylidenemethyl)-isonicotinonitrile (iii-int)(approx 4.0 mmol) suspended in water (30 mL) and hydrazine monohydrate (2 mL). The reaction mixture was then heated to 90° C. for 90 minutes and then cooled to room temperature. The resulting suspension was filtered and washed with methanol (5 mL), water (10 ml) and then ethyl ether (2×30 mL). A buff solid was isolated with single peak in LC-MS analysis. (0.61 g, 26.7% over 3 steps); m/z (LC-MS, ESP), RT=3.48 mins, (M+H)=263.0.

reactant | 2-(3-oxo-3H-isobenzofuran-1-ylidenemethyl)-isonicotinonitrile | approx 4.0 mmol | O=C1OC(C2=CC=CC=C12)=CC=1C=C(C#N)C=CN1 | C15H8N2O2
reactant | hydrazine monohydrate | 2 mL | O.NN
solvent | water | 30 mL | O | H2O
product | 2-(4-Oxo-3,4-dihydro-phthalazin-1-ylmethyl)-isonicotinonitrile | O=C1NN=C(C2=CC=CC=C12)CC=1C=C(C#N)C=CN1 | C15H10N4O
